US05089504
3-Propanoyl-4-chloro-8-methoxyquinoline (32 g) was dissolved in dichloromethane (250 ml), cooled to -78°, and boron tribromide (37 ml) added slowly. The solution was allowed to warm slowly to room temperature overnight, then recooled in ice and quenched cautiously with water. The resulting solid was filtered off and washed with water to give crude 3-propanoyl-4-chloro-8-hydroxyquinoline (115 g crude weight), which was used without further purification.

reactant | 3-Propanoyl-4-chloro-8-methoxyquinoline | 32 g | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO2
reactant | boron tribromide | 37 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 3-propanoyl-4-chloro-8-hydroxyquinoline | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)O | C12H10ClNO2
